US04626538
7-[3-[(Cyclobutylcarbonyl)amino]phenyl]pyrazolo[1,5-a]pyrimidine-3-carboxylic acid, ethyl ester
A 0.78 g portion of 3-amino-4-carboethoxypyrazole ard 1.36 g of N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]cyclobutanecarboxamide were reacted as described in Example 13, giving 1.52 g of the desired product, mp 123°-125° C.

reactant | 3-amino-4-carboethoxypyrazole | 1.36 g | NC1=NNC=C1C(=O)OCC | C6H9N3O2
reactant | N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]cyclobutanecarboxamide | CN(C=CC(=O)C=1C=C(C=CC1)NC(=O)C1CCC1)C | C16H20N2O2
product | 7-[3-[(Cyclobutylcarbonyl)amino]phenyl]pyrazolo[1,5-a]pyrimidine-3-carboxylic acid, ethyl ester | 1.52 g | C1(CCC1)C(=O)NC=1C=C(C=CC1)C1=CC=NC=2N1N=CC2C(=O)OCC | C20H20N4O3
